US08039460B2
Step A: (6S,9R)-6-(2,3-Difluorophenyl)-3-(2,2,2-trifluoroethyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-amine
Trifluoroacetic acid (1 mL, 13.5 mmol) was added to a solution of tert-butyl [(6S,9R)-6-(2,3-difluorophenyl)-3-(2,2,2-trifluoroethyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-yl]carbamate (120 mg, 0.27 mmol) in dichloromethane (2 mL). After 1 h, the mixture was concentrated and saturated aqueous sodium bicarbonate was added. The mixture was extracted with dichloromethane (3×), and the combined organic extracts were washed with saturated brine, dried over magnesium sulfate, filtered and concentrated. MS 346.1 (M+1).

reactant | Trifluoroacetic acid | 13.5 mmol, 1 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl [(6S,9R)-6-(2,3-difluorophenyl)-3-(2,2,2-trifluoroethyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-yl]carbamate | 0.27 mmol, 120 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C=2N(C1)C(=CN2)CC(F)(F)F)NC(OC(C)(C)C)=O | C21H24F5N3O2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | (6S,9R)-6-(2,3-Difluorophenyl)-3-(2,2,2-trifluoroethyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-amine | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C=2N(C1)C(=CN2)CC(F)(F)F)N | C16H16F5N3
